US05243025
Preparation of (CH3)3SiO(CH2)3OSi(CH3)3
1,3-Propanediol (47.8 g, 0.63 mol) was placed in a 500 mL 3-necked RB flask and treated with 0.3 mL trimethylsilyl chloride. A portion of HMDS (ca. 25 mL) was added, and an exothermic reaction took place as the mixture became homogeneous. The remainder of the HMDS (121 mL, 0.69 mol total) was added at a controlled rate (ca. 3-5 mL/min), maintaining the reaction temperature at ca. 60° C. Heating was continued at 100° C. (3 h), and 150° C. (1.5 h). Distillation provided 130.6 g of colorless oil, bp 80°-81° C./15 mm. GC analysis (method 1) showed ca. 99% purity.

reactant | 1,3-Propanediol | 0.63 mol, 47.8 g | C(CCO)O | C3H8O2
reactant | trimethylsilyl chloride | 0.3 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | HMDS | ca. 25 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | HMDS | 0.69 mol, 121 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | (CH3)3SiO(CH2)3OSi(CH3)3 | 130.6 g | [Si](C)(C)(C)OCCCO[Si](C)(C)C | C9H24O2Si2
